US06492403B1
5-Methylthio-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carbonitrile (100 mg, 0.32 mmol) as prepared in previous step was dissolved in EtOH (10 mL). To this solution hydrazine monohydrate (10 eq) was added and the mixture was heated at reflux for 3 h. The EtOH solution was concentrated down to 1 mL and water (2 mL) was added to this solution. This resulted in the formation of a white solid. The solid was collected by filtration washed with a small amount of water and dried under vacuum to give 50 mg (45%) of hydrazino[5-methylthio-4-(4-phenyl(1,3-thiazol-2-yl))(2-thienyl)]methanimine. 1H-NMR (CD3OD/CDCl3; 300 MHz) δ2.69 (s, 3H), 7.35-7.43 (m, 1H), 7.44-7.49 (m, 2H), 7.52 (s, 1H), 7.96-7.99 (m, 2), 8.10 (s, 1H). Mass spectrum (ESI, m/z): Calcd. for C15H14N4S3, 347.04 (M+H), found 347.1.

reactant | 5-Methylthio-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carbonitrile | 0.32 mmol, 100 mg | CSC1=C(C=C(S1)C#N)C=1SC=C(N1)C1=CC=CC=C1 | C15H10N2S3
reactant | hydrazine monohydrate | 10 eq | O.NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | hydrazino[5-methylthio-4-(4-phenyl(1,3-thiazol-2-yl))(2-thienyl)]methanimine | 50 mg, 45% | N(N)C(=N)C=1SC(=C(C1)C=1SC=C(N1)C1=CC=CC=C1)SC | C15H14N4S3
